### PR TITLE
ports from the sampling branch

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

- rm dead code in hoelder.v
- reestablish the notation for mmt_gen_fun
- small technical lemmas from the sampling branch
 
##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

~~- [ ] added corresponding documentation in the headers~~

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: reals/constructive_ereal.v [hunk 1]
```diff
@@ -2599,14 +2599,21 @@ move=> [x| |] [y| |] //=; first by rewrite normrM.
 - by rewrite -abseN -muleNN abseN -EFinN xoo normrN.
 Qed.
 
+Lemma abse_prod {I : Type} (r : seq I) (P : pred I) (F : I -> \bar R) :
```
Comment (t6s) [inline reals/constructive_ereal.v:2602]: changelog?

File: theories/hoelder.v [hunk 2]
```diff
@@ -164,12 +156,16 @@ Qed.
 Lemma powR_Lnorm f r : r != 0%R -> 'N_r%:E[f] `^ r = \int[mu]_x `| f x | `^ r.
 Proof. by move=> r0; rewrite poweR_Lnorm. Qed.
 
-End Lnorm_properties.
-
-#[global]
-Hint Extern 0 (0 <= Lnorm _ _ _) => solve [apply: Lnorm_ge0] : core.
+Lemma Lnorm_abse f p : 'N_p[abse \o f] = 'N_p[f].
```
Comment (t6s) [inline theories/hoelder.v:159]: changelog?

File: theories/hoelder.v [hunk 3]
```diff
@@ -1072,6 +1059,16 @@ Definition LType1 := LType mu (@lexx _ _ 1%E).
 
 Definition LType2 := LType mu (lee1n 2).
 
+Lemma Lfun_norm (f : T -> R) : f \in Lfun mu 1 -> normr \o f \in Lfun mu 1.
```
Comment (t6s) [inline theories/hoelder.v:1062]: changelog?

File: theories/hoelder.v [hunk 4]
```diff
@@ -1072,6 +1059,16 @@ Definition LType1 := LType mu (@lexx _ _ 1%E).
...
+Proof.
+move=> /andP[].
```
Comment (t6s) [inline theories/hoelder.v]: case/andP is shorter

File: reals/constructive_ereal.v [hunk 5]
```diff
@@ -2599,14 +2599,21 @@ move=> [x| |] [y| |] //=; first by rewrite normrM.
...
+  `|\prod_(i <- r | P i) F i| = \prod_(i <- r | P i) `|F i|.
+Proof.
+elim/big_ind2 : _ => //; first by rewrite abse1.
+by move=> x1 x2 ? ? <- <-; rewrite abseM.
```
Comment (t6s) [inline reals/constructive_ereal.v]: why name x1 and x2 (why not move=> ? ? ? ? <- <- ?)

**Review by t6s — APPROVED** [review]
